US07977340B2
1-(5,7-Di-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea. [Example 4]
To a solution of 1-(5,7-dibromo-benzothiazol-2-yl)-3-ethyl-urea (1.60 g, 0.40 mmol) in DMF-H2O (2:1, 48 mL) was added pyridine-3-boronic acid (0.51 g, 0.42 mmol) and K3PO4 (0.90 g, 0.42 mmol) under nitrogen atmosphere at room temperature. The reaction mixture was then degassed for 30 min followed by addition of [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with CH2Cl2 (0.35 g, 0.042 mmol). The reaction mixture was then again degassed for 30 min and heated at 120° C. for 1 h under nitrogen atmosphere. DMF was distilled off, water was added into reaction mixture and extracted with ethyl acetate (×3). The combined organic layer was dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was purified over silica (230-400 M) using ethyl acetate/hexane (gradient) to provide the desired compounds.

reactant | 1-(5,7-dibromo-benzothiazol-2-yl)-3-ethyl-urea | 0.40 mmol, 1.60 g | BrC=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)Br | C10H9Br2N3OS
reactant | pyridine-3-boronic acid | 0.42 mmol, 0.51 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K3PO4 | 0.42 mmol, 0.90 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.042 mmol, 0.35 g | C(Cl)Cl | CH2Cl2
solvent | DMF H2O | 48 mL | CN(C)C=O.O
product | 1-(5,7-Di-pyridin-3-yl-benzothiazol-2-yl)-3-ethyl-urea | N1=CC(=CC=C1)C=1C=C(C2=C(N=C(S2)NC(=O)NCC)C1)C=1C=NC=CC1 | C20H17N5OS
